US05241107
Using the procedure outlined in Examples 1A, 2-chloroanthraquinone (Aldrich) and methoxyethanol (Aldrich) gave a 44.3% yield of 2-[2-(methoxy)ethoxy)]anthraquinone, mp 126°, (C,H), (CH2Cl2 /hexane).

reactant | 2-chloroanthraquinone | ClC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7ClO2
reactant | methoxyethanol | COC(C)O | C3H8O2
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
